US07531545B2
To a solution of N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyramide (0.4 g, 0.6 mmol) in MeOH (10 mL) was added 10% Pd on activated carbon (0.1 g) under N2. The reaction mixture was subjected to hydrogenation under 5 psi for 2 h. The catalyst was filtered out, and the MeOH was evaporated to yield 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide as an oil.

reactant | N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyramide | 0.6 mmol, 0.4 g | C(C)(C)(C)OC[C@H](C(=O)N1CCOCC1)NC(CC[C@H](NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)C1CCCCC1)=O | C33H47N5O7
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd on activated carbon | 0.1 g | [Pd] | Pd
product | 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide | NC=1C(=CC(=NC1)OC1=CC=CC=C1)CN[C@@H](CCC(=O)N[C@@H](C(=O)N1CCOCC1)COC(C)(C)C)C1CCCCC1 | C33H49N5O5
